US07196111B2
To a refluxing mixture of 7.0 g (175 mmol) of sodium hydride (NaH 60% dispersion in mineral oil) and 10.45 g (88.5 mmol) of diethyl carbonate (CO(OEt)2) in 100 mL of toluene was added dropwise via an addition funnel a mixture of 10 g (44.3 mmol) of 1-(4-benzyloxy-phenyl)-ethanone in 20 mL of toluene, and the resulting mixture was heated at reflux under argon for 1 h. The reaction mixture was then cooled to 0° C., quenched by the addition of 40 mL of acetic acid, during which time a yellow precipitate formed, and it dissolved upon subsequent addition of water. The separated organic layer was washed with saturated sodium bicarbonate solution, water and brine, dried over sodium sulfate and concentrated to give a residue which was chromatographed on silica gel (10% hexane in dichloromethane) to afford 9.2 g (70% yield) of desired 3-(4-benzyloxy-phenyl)-3-oxo-propionic acid ethyl ester as indicated by 1H NMR.

reactant | sodium hydride | 175 mmol, 7.0 g | [H-].[Na+]
reactant | diethyl carbonate | 88.5 mmol, 10.45 g | C(OCC)(OCC)=O | C5H10O3
reactant | 1-(4-benzyloxy-phenyl)-ethanone | 44.3 mmol, 10 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C)=O | C15H14O2
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-benzyloxy-phenyl)-3-oxo-propionic acid ethyl ester | 9.2 g, 70% yield | C(C)OC(CC(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C18H18O4
